US06258953B1
N-(4-Chlorobenzyl)-4-[2-(4-methylpiperazin-1-yl)phenyl]-2-phenylacrylamide hydrochloride
A mixture of 2-(4-methylpiperazin-1-yl)benzaldehyde (0.091 g, 0.45 mmol), N-(4-chlorobenzyl)-phenylacetamide (0.127 g, 0.49 mmol) and N,N-dimethylformamide (2 mL) was treated with anhydrous sodium methoxide (0.072 g, 1.34 mmol) under a nitrogen atmosphere as above to give the title product as an amorphous solid, (0.029 g).

reactant | 2-(4-methylpiperazin-1-yl)benzaldehyde | 0.45 mmol, 0.091 g | CN1CCN(CC1)C1=C(C=O)C=CC=C1 | C12H16N2O
reactant | N-(4-chlorobenzyl)-phenylacetamide | 0.49 mmol, 0.127 g | ClC1=CC=C(CNC(CC2=CC=CC=C2)=O)C=C1 | C15H14ClNO
reactant | sodium methoxide | 1.34 mmol, 0.072 g | C[O-].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-(4-Chlorobenzyl)-4-[2-(4-methylpiperazin-1-yl)phenyl]-2-phenylacrylamide hydrochloride | 0.029 g | Cl.ClC1=CC=C(CNC(C(=C)C2=CC=C(C=C2)C2=C(C=CC=C2)N2CCN(CC2)C)=O)C=C1 | InChI=1S/C27H28ClN3O.ClH/c1-20(27(32)29-19-21-7-13-24(28)14-8-21)22-9-11-23(12-10-22)25-5-3-4-6-26(25)31-17-15-30(2)16-18-31;/h3-14H,1,15-19H2,2H3,(H,29,32);1H
